US07494984B2
N-(4-Fluoro-2-(1H-1,2,4-triazol-1-yl)benzyl)-6-hydroxy-1-isopropyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-a]pyrimidine-7-carboxamide
Hydrogenolysis of N-(4-fluoro-2-(1H-1,2,4-triazol-1-yl)benzyl)-6-(benzyloxy)-1-isopropyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-a]pyrimidine-7-carboxamide (0.200 g, 0.40 mmol) as described for example 1 gave 0.134 g (82% yield) of the title compound white crystals (ethyl acetate). 1HNMR 400 MHz (CDCl3) δ (ppm): 1.27 (6H, d, J=6.5 Hz, 2×CH3), 3.60 (2H, t, J=8.5 Hz, CH2), 4.12 (2H, t, J=8.5 Hz, CH2), 4.25 (1H, m, CH), 4.48 (2H, d, J=6.8 Hz, NCH2), 7.13 (1H, dd, J=2.5 Hz and J=8.4 Hz, aromatic), 7.24 (1H, m, aromatic), 7.69 (1H, dd, J=5.8 Hz and J=8.6 Hz, aromatic), 8.18 (1H, s, CH), 8.46 (1H, s, CH), 8.66 (1H, broad t, NH), 11.41 (1H, broad, OH). HRMS (ESI+) calculated for C19H21FN7O3 [M+H+]: 414.1690. found: 414.1677.

reactant | N-(4-fluoro-2-(1H-1,2,4-triazol-1-yl)benzyl)-6-(benzyloxy)-1-isopropyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-a]pyrimidine-7-carboxamide | 0.40 mmol, 0.200 g | FC1=CC(=C(CNC(=O)C=2N=C3N(C(C2OCC2=CC=CC=C2)=O)CCN3C(C)C)C=C1)N1N=CN=C1 | C26H26FN7O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-Fluoro-2-(1H-1,2,4-triazol-1-yl)benzyl)-6-hydroxy-1-isopropyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-a]pyrimidine-7-carboxamide | 0.134 g, 82% yield | FC1=CC(=C(CNC(=O)C=2N=C3N(C(C2O)=O)CCN3C(C)C)C=C1)N1N=CN=C1 | C19H20FN7O3
